US03984430
5-(3-Benzyloxycarbonylaminopropyl)-3-methyl-2-thiohydantoin
Using an analogous procedure to Example 1 Nδ-benzyloxycarbonyl-L-ornithine methyl ester may be reacted with methyl isothiocyanate to give the title compound

reactant | Nδ-benzyloxycarbonyl-L-ornithine methyl ester | COC([C@@H](N)CCCNC(=O)OCC1=CC=CC=C1)=O | C14H20N2O4
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 5-(3-Benzyloxycarbonylaminopropyl)-3-methyl-2-thiohydantoin | C(C1=CC=CC=C1)OC(=O)NCCCC1C(N(C(N1)=S)C)=O | C15H19N3O3S
